US06140317
Under an argon atmosphere, 0.2 g (1.1 mmol) of 4-chloro-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine (see Liebigs Ann. Chem. 1986(9), 1485-1505; CAS-Reg. No. 82703-38-6) and 0.15 ml (1.32 mmol) of 2,3-dihydroindole (Fluka, Buchs, Switzerland) in 5 ml of abs. n-butanol are heated at reflux for 2 hours until the starting material is no longer present in TLC. The reaction mixture is concentrated by evaporation in vacuo at 50° C. The brown residue is dissolved in 30 ml of ethyl acetate, and 10 ml of 1 N NaOH solution are added. The organic phase is separated off and washed three times with a small amount of water, dried and concentrated by evaporation. The crude product is dissolved in 10 ml of THF, and n-hexane is added until crystallization begins. Stirring is carried out at 0° C. and the product is filtered off with suction and dried under a high vacuum. Pure 4-(2,3-dihydroindol-1-yl)-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine is obtained in the form of colorless crystals having a melting point of 220-221° C. FAB-MS: (M+H)+ =265 (corresponds to C16H16N4); Rf value (toluene-acetone--4:6)=0.46.

reactant | 4-chloro-5,6-dimethyl-7H-pyrrolo[2,3-d]-pyrimidine | 1.1 mmol, 0.2 g | ClC=1C2=C(N=CN1)NC(=C2C)C | C8H8ClN3
reactant | 2,3-dihydroindole | 1.32 mmol, 0.15 ml | N1CCC2=CC=CC=C12 | C8H9N
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(2,3-dihydroindol-1-yl)-5,6-dimethyl-7H-pyrrolo[2,3-d]pyrimidine | N1(CCC2=CC=CC=C12)C=1C2=C(N=CN1)NC(=C2C)C | C16H16N4
